US06228861B1
A suspension of benzyl 2-[(2,4-difluorophenyl)methylene]-3-oxopentanoate (80.0 g, 0.241 mol), O-methylisourea hemisulfate (63.8 g, 0.362 mol, 1.5 eq.), NaHCO3 (60.48 g, 0.72 mol) in ethanol (800 mL) was stirred at 60-70° C. for 20 h. After cooling to room temperature, the mixture was filtered, and the solid was washed with ethanol (200 mL). The solvent was evaporated from the combined filtrates and the residue was purified by column chromatography (SiO2, EtOAc/Hexane, 10%-30%) to yield 5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(2,4-difluorophenyl) pyrimidine as a pale yellow oil (39 g, 42%). 1H-NMR analysis showed the product to be a mixture of amine/imine tautomers, which was used as is in the next step.

reactant | benzyl 2-[(2,4-difluorophenyl)methylene]-3-oxopentanoate | 0.241 mol, 80.0 g | FC1=C(C=CC(=C1)F)C=C(C(=O)OCC1=CC=CC=C1)C(CC)=O | C19H16F2O3
reactant | O-methylisourea hemisulfate | 0.362 mol, 63.8 g, 1.5 eq. | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | NaHCO3 | 0.72 mol, 60.48 g | C(=O)(O)[O-].[Na+]
solvent | ethanol | 800 mL | C(C)O | C2H6O
product | 5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(2,4-difluorophenyl) pyrimidine | 39 g, 42% | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=C(C=C(C=C1)F)F)OC)CC | C21H20F2N2O3
